US08541594B2
To a solution of 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanol (1.1 g, 4.6 mmol) in anhydrous tetrahydrofuran (20 ml) is added, in one portion, sodium hydride (60% dispersion in mineral oil, 184 mg, 4.6 mmol). The reaction mixture is stirred for 5 minutes at room temperature and 4-chlorobicyclo[3.2.1]oct-3-en-2-one (720 mg, 4.6 mmol) is added in one portion. The reaction mixture is stirred at room temperature overnight. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 4-{1-[2-(4-chlorophenyl)thiazol-5-yl]ethoxy}bicyclo[3.2.1]oct-3-en-2-one (1.24 g)

reactant | 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanol | 4.6 mmol, 1.1 g | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)O | C11H10ClNOS
reactant | sodium hydride | 4.6 mmol, 184 mg | [H-].[Na+]
reactant | 4-chlorobicyclo[3.2.1]oct-3-en-2-one | 4.6 mmol, 720 mg | ClC1=CC(C2CCC1C2)=O | C8H9ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-{1-[2-(4-chlorophenyl)thiazol-5-yl]ethoxy}bicyclo[3.2.1]oct-3-en-2-one | 1.24 g | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)OC1=CC(C2CCC1C2)=O | C19H18ClNO2S
